US04529737
To a solution of 7.5 g of 4-(4-biphenylyl)-4-oxobutyric acid in 40 ml of chloroform and 3.4 g of triethylamine is added a solution of 6.2 g of 3-bromophthalide in 20 ml of chloroform. The solution thus obtained is stirred 24 hours at room temperature, the organic phase is washed with an aqueous solution of sodium bicarbonate, then with water and finally it is dried on anhydrous sodium sulfate and evaporated to dryness to give the phthalidyl 4-(4-biphenylyl)-4-oxobutyrate; yield 73%.

reactant | 4-(4-biphenylyl)-4-oxobutyric acid | 7.5 g | C1(=CC=C(C=C1)C(CCC(=O)O)=O)C1=CC=CC=C1 | C16H14O3
reactant | triethylamine | 3.4 g | C(C)N(CC)CC | C6H15N
reactant | 3-bromophthalide | 6.2 g | BrC1OC(=O)C2=CC=CC=C12 | C8H5BrO2
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | phthalidyl 4-(4-biphenylyl)-4-oxobutyrate | yield 73% | C1(=CC=C(C=C1)C(CCC(=O)OC1OC(=O)C2=CC=CC=C12)=O)C1=CC=CC=C1 | C24H18O5
